### PR TITLE
[Merged by Bors] - feat(Algebra/Azumaya/Defs): Define Azumaya algebras

### PR DESCRIPTION
**Pull request by Whysoserioushah**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,60 @@
...
+
+reference : Wikipedia, Noncommutative Algebra
+-/
+
+variable (R A : Type*) [CommRing R] [Ring A] [Algebra R A]
+
+open TensorProduct MulOpposite
+
+@[simps]
+private abbrev moptoendo : A → Aᵐᵒᵖ →ₗ[R] Module.End R A :=
```
Comment (jjaassoonn) [inline Mathlib/Algebra/Azumaya/Defs.lean:21]: Is this map `R`-linear as well

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,60 @@
...
+    toFun := fun b ↦ {
+      toFun := fun x ↦ a * x * unop b,
+      map_add' := fun _ _ ↦ by simp [mul_add, add_mul],
+      map_smul' := fun _ _ ↦ by simp
+    }
+    map_add' := fun _ _ ↦ by ext; simp [mul_add]
+    map_smul' := fun _ _ ↦ by ext; simp
+  }
+
+noncomputable abbrev endo : (A ⊗[R] Aᵐᵒᵖ) →ₐ[R] Module.End R A where
```
Comment (jjaassoonn) [inline Mathlib/Algebra/Azumaya/Defs.lean:32]: Is [Algebra.TensorProduct.lift](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/TensorProduct/Basic.html#Algebra.TensorProduct.lift) useful here

Comment (jjaassoonn) [reply Mathlib/Algebra/Azumaya/Defs.lean:32]: what about
```lean
noncomputable abbrev endo : (A ⊗[R] Aᵐᵒᵖ) →ₐ[R] Module.End R A :=
Algebra.TensorProduct.lift
  (Algebra.lsmul R R A) (Algebra.lsmul R R A)
  (by
    intro a b
    ext x
    simp [commute_iff_eq, mul_assoc])
```

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:32]: changed

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 1 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:21]: deleted

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,36 @@
...
+Copyright (c) 2025 Yunzhou Xie. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yunzhou Xie, Jujian Zhang
+-/
+import Mathlib.Algebra.Module.Projective
+import Mathlib.RingTheory.TensorProduct.Basic
+import Mathlib.RingTheory.Finiteness.Defs
+
+/-!
+# Definition of Azumaya Algebras
```
Comment (kbuzzard) [inline Mathlib/Algebra/Azumaya/Defs.lean:11]:
```suggestion
# Azumaya Algebras

```

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,36 @@
...
+The definition of Azumaya algebra is a finitely generated, projective and faithful R-module
```
Comment (kbuzzard) [inline Mathlib/Algebra/Azumaya/Defs.lean:12]:
```suggestion
An Azumaya algebra over a commutative ring `R` is a finitely generated, projective 
and faithful R-algebra
```
(and sort out pagination)

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,36 @@
...
+where the tensorproduct `A ⊗[R] Aᵐᵒᵖ` is isomorphic to the endomorphism ring of A `End R A`
+via the map `f : a ⊗ b ↦ (x ↦ a * x * b.unop)`.
+TODO : Add the rest three definitions and prove they are equivalent.
+reference : Wikipedia, Noncommutative Algebra
+-/
```
Comment (kbuzzard) [inline Mathlib/Algebra/Azumaya/Defs.lean:17]: Can you add tags and references following the community guidelines for module docstrings here https://leanprover-community.github.io/contribute/doc.html ?

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,36 @@
...
+
+variable (R A : Type*) [CommRing R] [Ring A] [Algebra R A]
+
+open TensorProduct MulOpposite
+
+/-- The canonical map from `A ⊗[R] Aᵐᵒᵖ` to `Module.End R A` where
+  `a ⊗ b` maps to `f : x ↦ a * x * b`-/
+noncomputable abbrev endo : (A ⊗[R] Aᵐᵒᵖ) →ₐ[R] Module.End R A :=
```
Comment (kbuzzard) [inline Mathlib/Algebra/Azumaya/Defs.lean:25]: This surely can't go in the root namespace, and it has a bad name: `endo` is not in the mathlib naming convention.

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:26]: what name do you suggest I'm really bad at naming stuff :((

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 5 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:26]: done!

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,45 @@
...
+Algebra.TensorProduct.lift
+  (Algebra.lsmul R R A) (Algebra.lsmul R R A)
+  (fun _ _ ↦ by ext; simp [commute_iff_eq, mul_assoc])
+
+@[simp] lemma endo_apply (a : A) (b : Aᵐᵒᵖ) (x : A) : endo R A (a ⊗ₜ b) x = a * x * b.unop := by
+  simp [mul_assoc]
+
+class IsAzumaya extends Module.Projective R A, FaithfulSMul R A : Prop where
+    fg : Module.Finite R A
```
Comment (eric-wieser) [inline Mathlib/Algebra/Azumaya/Defs.lean:44]: Why not `extend` this too?

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 8]
```diff
@@ -0,0 +1,45 @@
...
+import Mathlib.RingTheory.Finiteness.Defs
+
+/-!
+# Azumaya Algebras
+
+An Azumaya algebra over a commutative ring `R` is a finitely generated, projective
+and faithful R-algebra
+where the tensorproduct `A ⊗[R] Aᵐᵒᵖ` is isomorphic to the endomorphism ring of A `End R A`
+via the map `f : a ⊗ b ↦ (x ↦ a * x * b.unop)`.
+TODO : Add the rest three definitions and prove they are equivalent.
```
Comment (eric-wieser) [inline Mathlib/Algebra/Azumaya/Defs.lean:17]: Can you list these other definitions in this to-do? It's hard to review if you've chosen the best one otherwise

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 9]
```diff
@@ -0,0 +1,45 @@
...
+
+## Reference
+
+* <https://en.wikipedia.org/wiki/Azumaya_algebra>
+* [Benson Farb , R. Keith Dennis, *Noncommutative Algebra*]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Azumaya/Defs.lean:22]: This should be added to `references.bib`

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Azumaya/Defs.lean:35]: `Module.End.ofTensorProductMulOpposite` maybe?

Comment (eric-wieser) [reply Mathlib/Algebra/Azumaya/Defs.lean:35]: Better yet, `TensorProduct.Algebra.moduleAux` which is already exactly this definition

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:35]: should I use the map to prove it as well?

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 7 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:44]: it gives an error I don't know why

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 8 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:17]: sure thing will do

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 9 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:22]: what's reference.bib

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 7 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:60]: It gives this error:
`parent field type mismatch, field 'out' from parent 'Module.Finite' has type
  ⊤.FG : Prop
but is expected to have type
  ∃ s, Function.LeftInverse ⇑(Finsupp.linearCombination R id) ⇑s : Prop`

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 9 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Azumaya/Defs.lean:24]: A file in mathlib

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 10]
```diff
@@ -0,0 +1,62 @@
...
+import Mathlib.Algebra.Module.Projective
+import Mathlib.RingTheory.TensorProduct.Basic
+import Mathlib.RingTheory.Finiteness.Defs
+
+/-!
+# Azumaya Algebras
+
+An Azumaya algebra over a commutative ring `R` is a finitely generated, projective
+and faithful R-algebra where the tensor product `A ⊗[R] Aᵐᵒᵖ` is isomorphic to the
+endomorphism ring of A `End R A` via the map `f : a ⊗ b ↦ (x ↦ a * x * b.unop)`.
```
Comment (kbuzzard) [inline Mathlib/Algebra/Azumaya/Defs.lean:15]:
```suggestion
`R`-endomorphisms of A via the map `f : a ⊗ b ↦ (x ↦ a * x * b.unop)`.
```

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 11]
```diff
@@ -0,0 +1,62 @@
...
+TODO : Add the rest three definitions and prove they are equivalent:
```
Comment (kbuzzard) [inline Mathlib/Algebra/Azumaya/Defs.lean:16]:
```suggestion
TODO : Add three more definitions and prove they are equivalent:
```

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 12]
```diff
@@ -0,0 +1,62 @@
...
+· There exist an `R`-algebra `B` such that `B ⊗[R] A` is Morita equivalent to `R`,
```
Comment (kbuzzard) [inline Mathlib/Algebra/Azumaya/Defs.lean:17]:
```suggestion
· There exists an `R`-algebra `B` such that `B ⊗[R] A` is Morita equivalent to `R`;
```

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 13]
```diff
@@ -0,0 +1,62 @@
...
+· `Aᵐᵒᵖ ⊗[R] A` is Morita equivalent to `R`,
```
Comment (kbuzzard) [inline Mathlib/Algebra/Azumaya/Defs.lean:18]:
```suggestion
· `Aᵐᵒᵖ ⊗[R] A` is Morita equivalent to `R`;
```

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 7 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Azumaya/Defs.lean:61]: The issue is that the fields of `Module.Projective` and `Module.Finite` are both called `out`. https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/too.20many.20.60out.60s/near/492051754

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean]: Done!

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 9 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:24]: done! (although not so sure whether to put wikipedia in the `bib` file)

**Comment by Whysoserioushah** [comment]
Could anyone help me with the bib I'm really confused with this :((

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 9 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Azumaya/Defs.lean:24]: Not doing so is correct; but on this line you should now reference the key you added.

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:24]: how should I do that?

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 14]
```diff
@@ -0,0 +1,61 @@
...
+Azumaya algebra, central simple algebra, noncommutative algebra
+-/
+
+variable (R A : Type*) [CommRing R] [Ring A] [Algebra R A]
+
+open TensorProduct MulOpposite
+
+/-- The canonical map from `A ⊗[R] Aᵐᵒᵖ` to `Module.End R A` where
+  `a ⊗ b` maps to `f : x ↦ a * x * b`-/
+noncomputable abbrev TensorProduct.Algebra.moduleAux' : (A ⊗[R] Aᵐᵒᵖ) →ₐ[R] Module.End R A :=
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Defs.lean:37]: This is no longer an auxiliary construction, unlike `moduleAux`. `AlgHom.tensorMopToEnd` could be a good name.
Maybe we should put a `A ⊗[R] Aᵐᵒᵖ`-module ("bimodule") structure on A with a `IsScalarTower R (A ⊗[R] Aᵐᵒᵖ) A` instance. Then this becomes a special case of the following:
```
import Mathlib.Algebra.Algebra.Hom
import Mathlib.Algebra.Module.LinearMap.End
def Module.toModuleEndAlgHom (R) {S} (M) [CommSemiring R] [AddCommMonoid M] [Module R M] 
    [Semiring S] [Module S M] [Algebra R S] [IsScalarTower R S M] :
    S →ₐ[R] Module.End R M where
  __ := toModuleEnd R M
  commutes' r := by ext; apply algebraMap_smul
```

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 15]
```diff
@@ -0,0 +1,61 @@
...
+
+* <https://en.wikipedia.org/wiki/Azumaya_algebra>
+* [Benson Farb , R. Keith Dennis, *Noncommutative Algebra*]
+
+## Tags
+
+Azumaya algebra, central simple algebra, noncommutative algebra
+-/
+
+variable (R A : Type*) [CommRing R] [Ring A] [Algebra R A]
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Defs.lean:31]:
```suggestion
variable (R A : Type*) [CommSemiring R] [Semiring A] [Algebra R A]
```

File: docs/references.bib [hunk 16]
```diff
@@ -276,8 +276,18 @@ @Book{            behrends1979
   zbl           = {0436.46013}
 }
 
-@Article{         bergelson1985,
-  author        = {Bergelson, Vitaly},
```
Comment (kbuzzard) [inline docs/references.bib:280]: Presumably you didn't mean to delete these?

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 17]
```diff
@@ -0,0 +1,61 @@
...
+    commutes' := fun r ↦ by
+      ext a
+      simp [Algebra.moduleAux_apply, Algebra.algebraMap_eq_smul_one,
+        Algebra.TensorProduct.one_def]
+  }
+
+/-- An azumaya algebra is a finitely generated, projective and faithful R-algebra where
+  `TensorProduct.Algebra.moduleAux` is an isomorphism. -/
+class IsAzumaya extends Module.Projective R A, FaithfulSMul R A, Module.Finite R A: Prop where
+    bij : Function.Bijective <| TensorProduct.Algebra.moduleAux' R A
```
Comment (jjaassoonn) [inline Mathlib/Algebra/Azumaya/Defs.lean:61]: Does it make sense to completely unbundle, i.e. make a class which only says `Function.Bijective <| TensorProduct.Algebra.moduleAux' R A`, something like this
```
class PreAzumaya where
  bij : ...
```
Then when one need Azumaya algerba, one declares `[Module.Projective R A] [FaithfulSMul R A] [Module.Finite R A] [PreAzumaya R A]`

File: docs/references.bib (hunk 16 above)
Comment (Whysoserioushah) [reply docs/references.bib:280]: thanks, reverted!

**Comment by kim-em** [comment]
Please mark conversations as resolved once they are.

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 17 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean]: Any examples that this version works better than the current one? I don't mind changing it though

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 14 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean]: Done! but where should this definition go?

Comment (alreadydone) [reply Mathlib/Algebra/Azumaya/Defs.lean]: Apparently Mathlib.Algebra.Algebra.Hom already imports Mathlib.Algebra.Module.LinearMap.End, so it could go in the former.

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 17 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Azumaya/Defs.lean]: For example, instead defining central simple algebra (which sometimes finite dimensionality is assumed), we have `Algebra.IsCentral` and `IsSimpleRing` and `FiniteDimensional` separately so that one can always pick whatever combination they like

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean]: Hmmm if that's the case, why don't we just not have this definition at all and just have `(h : Function.Bijective ...)` as well as the other assumptions?

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean]: In fact, why do we even have `class` when we can just list all the assumptions?

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 14 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean]: that's weird because `lake exe shake --fix` didn't find this repeat import

Comment (alreadydone) [reply Mathlib/Algebra/Azumaya/Defs.lean]: `shake` doesn't complain if some declaration in Mathlib.Algebra.Module.LinearMap.End is used, which is the case here. #min_imports is the way to go to eliminate transitive imports.

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean]: thanks!

**Comment by Whysoserioushah** [comment]
I think this PR is ready?

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 18]
```diff
@@ -0,0 +1,61 @@
...
+    map_zero' := rfl
+    commutes' := fun r ↦ by
+      ext a
+      simp [Algebra.moduleAux_apply, Algebra.algebraMap_eq_smul_one,
+        Algebra.TensorProduct.one_def]
+  }
+
+/-- An azumaya algebra is a finitely generated, projective and faithful R-algebra where
+  `TensorProduct.Algebra.moduleAux` is an isomorphism. -/
+class IsAzumaya extends Module.Projective R A, FaithfulSMul R A, Module.Finite R A: Prop where
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Algebra/Azumaya/Defs.lean:57]: This patch still needs to be applied.

**Comment by jcommelin** [comment]
bors d+

File: Mathlib/Algebra/Algebra/Hom.lean [hunk 19]
```diff
@@ -469,6 +469,13 @@ lemma algebraMapSubmonoid_le_comap (f : A →ₐ[R] B) :
   rw [← algebraMapSubmonoid_map_eq M f]
   exact Submonoid.le_comap_map (Algebra.algebraMapSubmonoid A M)
 
+/-- `AlgHom` version of `Module.toModuleEnd` -/
+def Module.toModuleEndAlgHom (R) {S} (M) [CommSemiring R] [AddCommMonoid M] [Module R M]
+    [Semiring S] [Module S M] [Algebra R S] [IsScalarTower R S M] :
+    S →ₐ[R] Module.End R M where
+  __ := Module.toModuleEnd R M
+  commutes' r := by ext; apply algebraMap_smul
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Hom.lean:477]: Doesn't this exist already as `Algebra.lsmul`?

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 20]
```diff
@@ -0,0 +1,58 @@
...
+open TensorProduct MulOpposite
+
+noncomputable instance : Module (A ⊗[R] Aᵐᵒᵖ) A := TensorProduct.Algebra.module
+
+instance : IsScalarTower R (A ⊗[R] Aᵐᵒᵖ) A where
+  smul_assoc r aa' x := by
+    induction aa' using TensorProduct.induction_on with
+    | zero => simp
+    | tmul a a' => exact LinearMap.map_smul₂ _ _ _ _
+    | add aa' bb' h1 h2 => simp_all [add_smul]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Azumaya/Defs.lean:41]: I think it would be best if these were local not global instances; the first one I think puts a competing module structure on `Module (A ⊗[R] Aᵐᵒᵖ) (A ⊗[R] Aᵐᵒᵖ)`.

I think you could inline them with `letI` into the definition of `AlgHom.tensorMopToEnd`?

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 18 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Algebra/Azumaya/Defs.lean:57]: Also: azumaya -> Azumaya in docstring.

File: Mathlib/Algebra/Algebra/Hom.lean (hunk 19 above)
Comment (alreadydone) [reply Mathlib/Algebra/Algebra/Hom.lean:477]: Indeed, that's even more general, not sure why I didn't find it. It can be golfed with [Module.toModuleEnd](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/LinearMap/End.html#Module.toModuleEnd) too.

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 20 above)
Comment (alreadydone) [reply Mathlib/Algebra/Azumaya/Defs.lean:41]: I think the Module instance should be local but the IsScalarTower instance need not be. Or make the Module instance an abbrev and `letI` it in both the IsScalarTower instance and the `bij` field in `class IsAzumaya`, similar to [IsScalarTower.ofAlgHom](https://github.com/leanprover-community/mathlib4/blob/6c0f299838250e5428d2e66f576d1a1babab088a/Mathlib/Algebra/Algebra/Tower.lean#L164-L168) (I'm not sure why [RingHom.toAlgebra](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Defs.html#RingHom.toAlgebra) isn't an abbrev).

File: Mathlib/Algebra/Algebra/Hom.lean (hunk 19 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Algebra/Hom.lean:477]: wait so I should change this to `Algebra.lsmul`?

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 20 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:41]: ok!

File: Mathlib/Algebra/Algebra/Hom.lean (hunk 19 above)
Comment (alreadydone) [reply Mathlib/Algebra/Algebra/Hom.lean:477]: I think you can remove this def since
```
example (R) {S} (M) [CommSemiring R] [AddCommMonoid M] [Module R M]
    [Semiring S] [Module S M] [Algebra R S] [IsScalarTower R S M] :
    S →ₐ[R] Module.End R M :=
  Algebra.lsmul R R M
```
works.

Comment (Whysoserioushah) [reply Mathlib/Algebra/Algebra/Hom.lean:477]: okay!

**Comment by Whysoserioushah** [comment]
If everyone's okay with this I'll merge it then?

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 21]
```diff
@@ -0,0 +1,57 @@
...
+  `a ⊗ b` maps to `f : x ↦ a * x * b`. -/
+noncomputable abbrev AlgHom.tensorMopToEnd : (A ⊗[R] Aᵐᵒᵖ) →ₐ[R] Module.End R A :=
+  letI := instModuleTensorProductMop R A
+  letI : IsScalarTower R (A ⊗[R] Aᵐᵒᵖ) A := {
+    smul_assoc := fun r ab a ↦ by
+      change TensorProduct.Algebra.moduleAux _ _ = _ • TensorProduct.Algebra.moduleAux _ _
+      simp }
+  Algebra.lsmul R (A := A ⊗[R] Aᵐᵒᵖ) R A
+
+lemma AlgHom.tensorMopToEnd_apply (a : A) (b : Aᵐᵒᵖ) (x : A) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Azumaya/Defs.lean:48]: This should be `@[simp]`

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 22]
```diff
@@ -0,0 +1,57 @@
...
+open TensorProduct MulOpposite
+
+/-- `A` as a `A ⊗[R] Aᵐᵒᵖ`-module (or equivalently, an `A`-`A` bimodule). -/
+noncomputable abbrev instModuleTensorProductMop :
+  Module (A ⊗[R] Aᵐᵒᵖ) A := TensorProduct.Algebra.module
+
+/-- The canonical map from `A ⊗[R] Aᵐᵒᵖ` to `Module.End R A` where
+  `a ⊗ b` maps to `f : x ↦ a * x * b`. -/
+noncomputable abbrev AlgHom.tensorMopToEnd : (A ⊗[R] Aᵐᵒᵖ) →ₐ[R] Module.End R A :=
+  letI := instModuleTensorProductMop R A
```
Comment (eric-wieser) [inline Mathlib/Algebra/Azumaya/Defs.lean:41]:
```suggestion
  letI : Module (A ⊗[R] Aᵐᵒᵖ) A := TensorProduct.Algebra.module
```
then you can drop the `abbrev` above too.

File: docs/references.bib [hunk 23]
```diff
@@ -276,6 +276,17 @@ @Book{            behrends1979
   zbl           = {0436.46013}
 }
 
+@Book{            bensonfarb1993,
+  author        = {Benson Farb , R. Keith Dennis},
```
Comment (alreadydone) [inline docs/references.bib:280]:
```suggestion
  author        = {Benson Farb, R. Keith Dennis},
```

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 24]
```diff
@@ -0,0 +1,57 @@
...
+  letI : IsScalarTower R (A ⊗[R] Aᵐᵒᵖ) A := {
+    smul_assoc := fun r ab a ↦ by
+      change TensorProduct.Algebra.moduleAux _ _ = _ • TensorProduct.Algebra.moduleAux _ _
+      simp }
```
Comment (alreadydone) [inline Mathlib/Algebra/Azumaya/Defs.lean:45]: I still think this can be an instance, but I wouldn't demand it.

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 25]
```diff
@@ -0,0 +1,57 @@
...
+
+open TensorProduct MulOpposite
+
+/-- `A` as a `A ⊗[R] Aᵐᵒᵖ`-module (or equivalently, an `A`-`A` bimodule). -/
+noncomputable abbrev instModuleTensorProductMop :
+  Module (A ⊗[R] Aᵐᵒᵖ) A := TensorProduct.Algebra.module
+
+/-- The canonical map from `A ⊗[R] Aᵐᵒᵖ` to `Module.End R A` where
+  `a ⊗ b` maps to `f : x ↦ a * x * b`. -/
+noncomputable abbrev AlgHom.tensorMopToEnd : (A ⊗[R] Aᵐᵒᵖ) →ₐ[R] Module.End R A :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Azumaya/Defs.lean:40]: A good name for this would be `AlgHom.mulLeftRight`, which matches `LinearMap.mulLeftRight`

**Review by alreadydone — APPROVED** [review]

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 24 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:45]: I mean you and eric are giving different orders on this so... I guess I'll just leave this for now :((

Comment (eric-wieser) [reply Mathlib/Algebra/Azumaya/Defs.lean:45]: This one can't be an instance without the module instance, and the module instance creates diamonds.

Comment (eric-wieser) [reply Mathlib/Algebra/Azumaya/Defs.lean:45]: Perhaps it should be a theorem though about the `def` providing the module structure.

Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:45]: maybe put it in another PR will be appropriate?

Comment (alreadydone) [reply Mathlib/Algebra/Azumaya/Defs.lean:45]: > This one can't be an instance without the module instance, and the module instance (probably) creates diamonds.

I mean something like
```
instance : letI _ : Module (A ⊗[R] Aᵐᵒᵖ) A := TensorProduct.Algebra.moduleAux
    IsScalarTower R (A ⊗[R] Aᵐᵒᵖ) A :=
{ smul_assoc := fun r ab a ↦ by
    change TensorProduct.Algebra.moduleAux _ _ = _ • TensorProduct.Algebra.moduleAux _ _
    simp }
```
The main advantage would be that when you want to use this instance, you only need to `let` the Module instance into the environment, and then this IsScalarTower instance automatically applies. (If some lemmas assuming IsScalarTower switch to using {Module} instance of [Module], you may be able to avoid even introducing the Module instance.)

File: Mathlib/Algebra/Azumaya/Defs.lean (hunk 25 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/Azumaya/Defs.lean:40]: changed!

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 26]
```diff
@@ -0,0 +1,58 @@
...
+
+@[simp]
+lemma AlgHom.mulLeftRight_apply (a : A) (b : Aᵐᵒᵖ) (x : A) :
+    AlgHom.mulLeftRight R A (a ⊗ₜ b) x = a * x * b.unop := by
+  simp only [AlgHom.mulLeftRight, Algebra.lsmul_coe]
+  change TensorProduct.Algebra.moduleAux _ _ = _
+  simp [TensorProduct.Algebra.moduleAux, ← mul_assoc]
+
+/-- An Azumaya algebra is a finitely generated, projective and faithful R-algebra where
+  `AlgHom.mulLeftRight` is an isomorphism. -/
```
Comment (jcommelin) [inline Mathlib/Algebra/Azumaya/Defs.lean:56]:
```suggestion
  `AlgHom.mulLeftRight R A : (A ⊗[R] Aᵐᵒᵖ) →ₐ[R] Module.End R A` is an isomorphism. -/
```
